US05986029
a. Preparation of 4-hydroxy-4-(3-bromopropyl)-3.5-dimethyl-2,5-heptadiene
Analogously to example I, 2-lithium-2-butene was prepared from 2-bromo-2-butene (15.0 g; 0.11 mol) and lithium (2.8 g; 0.26 mol). To the product obtained, ethyl 4-bromobutanoate (11.0 g; 0.056 mol) was added dropwise and with reflux at -40-20° C., followed by stirring for 30 minutes at -20° C. Water (200 ml) and subsequently pentane (100 ml) were slowly added dropwise at -20° C. After separation of the layers the water layer was washed two times with 100 ml of pentane/ether (1/1, v/v), after which the combined organic layers were washed with water (50 ml). The organic layer was dried (K2CO3), filtered and evaporated. The yield was 14.0 g (96%).

reactant | 2-bromo-2-butene | 0.11 mol, 15.0 g | BrC(C)=CC | C4H7Br
reactant | lithium | 0.26 mol, 2.8 g | [Li] | Li
reactant | ethyl 4-bromobutanoate | 0.056 mol, 11.0 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | Water | 200 ml | O | H2O
solvent | pentane | 100 ml | CCCCC | C5H12
product | 4-hydroxy-4-(3-bromopropyl)-3.5-dimethyl-2,5-heptadiene | OC(C(=CC)C)(C(=CC)C)CCCBr | C12H21BrO
